US06838574B1
To a mixture of 4-ethynylanisole (700 mg, 5.30 mmol), 4-iodoanisole (1.30 g, 5.55 mmol), (PPh3)2PdCl2 (74.4 mg, 0.106 mmol), and CuI (10.1 mg, 0.053 mmol) in THF (7 ml), diisopropyl amine (1.13 g, 11.1 mmol) was added dropwise under ice cooling under argon atmosphere. After stirring at room temperature for 1 h, water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water then saturated brine, dried over sodium sulfate and concentrated. The residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=15/1) to give bis(4-methoxyphenyl)ethyne (95%).

reactant | 4-ethynylanisole | 5.30 mmol, 700 mg | C(#C)C1=CC=C(C=C1)OC | C9H8O
reactant | 4-iodoanisole | 5.55 mmol, 1.30 g | IC1=CC=C(C=C1)OC | C7H7IO
reactant | diisopropyl amine | 11.1 mmol, 1.13 g | C(C)(C)NC(C)C | C6H15N
reactant | water | O | H2O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
catalyst | (PPh3)2PdCl2 | 0.106 mmol, 74.4 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.053 mmol, 10.1 mg | [Cu]I
product | bis(4-methoxyphenyl)ethyne | 95% | COC1=CC=C(C=C1)C#CC1=CC=C(C=C1)OC | C16H14O2
